US08604015B2
2-Chloro-1-(thiophen-2-yl)ethanone (30.2 mg, 0.19 mmol) was added to a solution of (R)-thiophen-2-ylmethyl quinuclidin-3-ylcarbamate (50.0 mg, 0.19 mmol) in EtOAc (3 ml). The reaction was stirred at room temperature overnight. The solvent was removed, and the residue was triturated in Et2O, filtered and dried to give (R)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-3-((thiophen-2-ylmethoxy)carbonylamino)-1-azoniabicyclo[2.2.2]octane chloride (60 mg).

reactant | 2-Chloro-1-(thiophen-2-yl)ethanone | 0.19 mmol, 30.2 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
reactant | (R)-thiophen-2-ylmethyl quinuclidin-3-ylcarbamate | 0.19 mmol, 50.0 mg | N12C[C@@H](C(CC1)CC2)NC(OCC=2SC=CC2)=O | C13H18N2O2S
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-3-((thiophen-2-ylmethoxy)carbonylamino)-1-azoniabicyclo[2.2.2]octane chloride | 60 mg | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)NC(=O)OCC=2SC=CC2)C=2SC=CC2 | InChI=1S/C19H22N2O3S2.ClH/c22-17(18-4-2-10-26-18)12-21-7-5-14(6-8-21)16(11-21)20-19(23)24-13-15-3-1-9-25-15;/h1-4,9-10,14,16H,5-8,11-13H2;1H/t14?,16-,21?;/m0./s1
